US07465815B2
(2-(4-Isopropylbenzyl)-3,5-dimethylphenoxy)acetic acid
Using ethyl(2-(4-isopropylbenzyl)-3,5-dimethylphenoxy)acetate obtained in Reference Example 154, the title compound was synthesized in the same manner as in Reference Example 156. Yield 75%. Melting point: 104-105° C. (ethyl acetate-hexane).

reactant | ethyl(2-(4-isopropylbenzyl)-3,5-dimethylphenoxy)acetate | C(C)OC(COC1=C(C(=CC(=C1)C)C)CC1=CC=C(C=C1)C(C)C)=O | C22H28O3
solvent | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
product | (2-(4-Isopropylbenzyl)-3,5-dimethylphenoxy)acetic acid | Yield 75% | C(C)(C)C1=CC=C(CC2=C(OCC(=O)O)C=C(C=C2C)C)C=C1 | C20H24O3
